US06140274
A mixture of 1.21 g of 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde, 0.87 g of triphenylphosphine and 10 ml of diglyme was stirred at 160° C., to which a solution (5 ml) of 0.69 g of sodium chlorodifluoroacetate in diglyme heated to 60° C. was added dropwise. After stirring at 160° C. for 1.5 hours, the reaction mixture was returned to room temperature, poured into water and extracted twice with 50 ml of diethyl ether. The diethyl ether layers Were combined, washed with water, dried over magnesium sulfate and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.21 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3,3-difluoro-2-propenyloxy)butyloxy)benzene (yield, 16%), nD23.0 1.5219.

reactant | 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde | 1.21 g | ClC1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
reactant | triphenylphosphine | 0.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium chlorodifluoroacetate | 5 ml, 0.69 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | water | O | H2O
solvent | diglyme | COCCOCCOC | C6H14O3
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3,3-difluoro-2-propenyloxy)butyloxy)benzene | 0.21 g, 16% | ClC=1C=C(C=C(C1OCCCCOCC=C(F)F)Cl)OCC=C(Cl)Cl | C16H16Cl4F2O3
